US05646171
71(a) Ethyl 1-{4-[2-(t-butylaminocarbonyl)phenyl]phenyl}methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate
Following a procedure similar to that described in Example 68(a), but using 4.16 g of ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate (prepared as described in Preparation 9), 6.00 g of N-t-butyl-4'-bromomethylbiphenyl-2-carboxamide (prepared as described in Preparation 38) and 2.14 g of potassium t-butoxide, 5.87 g of the title compound was obtained as crystals, melting at 145°-146° C.

reactant | ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 4.16 g | OC(C)(C)C=1N=C(NC1C(=O)OCC)CCC | C12H20N2O3
reactant | N-t-butyl-4'-bromomethylbiphenyl-2-carboxamide | 6.00 g | C(C)(C)(C)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CBr | C18H20BrNO
reactant | potassium t-butoxide | 2.14 g | CC(C)([O-])C.[K+]
product | Ethyl 1-{4-[2-(t-butylaminocarbonyl)phenyl]phenyl}methyl-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 5.87 g | C(C)(C)(C)NC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(C)(C)O)CCC | C30H39N3O4
